US07501411B2
Step 1: 1-(Tetrahydro-pyran-2-yl)-1H-pyrazole
1H-Pyrazole (14.3 g, 0.21 mol) is dissolved in 3,4-dihydro-2H-pyran (26.74 g, 0.32 mol) in the presence of a catalytic amount of TFA (0.1 mL, 1.3 mmol). The reaction mixture is stirred at 95° C. for 5 hours, cooled and then quenched using NaH (0.2 g, 5 mmol). The solvent is removed to give the title compound as a brown oil (33.3 g, 99%), which is used in the next step without further purification.

reactant | 1H-Pyrazole | 0.21 mol, 14.3 g | N1N=CC=C1 | C3H4N2
reactant | 3,4-dihydro-2H-pyran | 0.32 mol, 26.74 g | O1CCCC=C1 | C5H8O
catalyst | TFA | 1.3 mmol, 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | NaH | 5 mmol, 0.2 g | [H-].[Na+]
product | 1-(Tetrahydro-pyran-2-yl)-1H-pyrazole | 33.3 g, 99% | O1C(CCCC1)N1N=CC=C1 | C8H12N2O
